US04595700
(a) E and Z Methyl 3-phenyl-2-(2-methylpropyl)-prop-2-enoate
To a stirred solution of 4-Methyl-2-(diethylphosphono) pentanoic acid methyl ester (25.72 g, 96.3 mmole) in dry tetrahydrofuran (250 ml) under nitrogen was added sodium hydride (4.2 g, 60% dispersion in oil) portionwise. After stirring for 30 min. at room temperature benzaldehyde (11.22 g, 96.3 mmole) was slowly added and the reaction mixture was then stirred for a further hour at room temperature. Volatiles were then removed in vacuo and the residue was dissolved in ethyl acetate, washed with saturated aqueous ammonium chloride solution (250 ml×2), dried (sodium sulphate), filtered and evaporated in vacuo to an oil. Distillation under reduced pressure gave the title compound as an oil (16.6 g, 79%); (Found: C, 75.83; H, 8.38. C14H18O2 +0.2H2O requires: C, 75.78; H, 8.36%); δ(CDCl3) 0.87 and 0.95 (together 6H, each d, each J=7 Hz, (CH3)2CH); 1.90 (1H, m, (CH3)2CH); 2.34 and 2.52 (together 2H, each d, each J=8 Hz, CH2CH(CH3 )2); 3.82 (3H, s, OCH3); 7.70 and 7.2-7.42 (together 6H, s, m, C6H5, vinyl CH).

reactant | 4-Methyl-2-(diethylphosphono) pentanoic acid methyl ester | 96.3 mmole, 25.72 g | COC(C(CC(C)C)P(=O)(OCC)OCC)=O | C11H23O5P
reactant | sodium hydride | 4.2 g | [H-].[Na+]
reactant | benzaldehyde | 96.3 mmole, 11.22 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | Methyl 3-phenyl-2-(2-methylpropyl)-prop-2-enoate | 16.6 g, 79% | C1(=CC=CC=C1)C=C(C(=O)OC)CC(C)C | C14H18O2
